US06756378B2
Methyl 4-(1-tert-butoxycarbonyl-(2S)-pyrrolidinyl)methoxybenzoate (1.0 g, 2.9 mmol) and 5% Rh on alumina (500 mg) in 10 ml EtOH/1 ml AcOH was hydrogenated at rt at 5 atm for 36 hr. The catalyst filtered off, the filtrate concentrated in vacuo and the residue purified by column chromatography on silica gel with n-hexane-EtOAc (6:1, v/v) as eluent to give methyl cis-4-[(1-tert-butoxycarbonyl-(2S)-pyrrolidinyl)methoxy]cyclohexanecarboxylate (900 mg, 89%) pale yellow oil. 1H-NMR (CDCl3) δ1.46(s,9H),1.46-2.00(m,12H),2.34(m,1H),3.20-3.55 (m,5H),3.67(s,3H), 3.84-3.92(m,1H).

reactant | Methyl 4-(1-tert-butoxycarbonyl-(2S)-pyrrolidinyl)methoxybenzoate | 2.9 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C(=O)OC)C=C1 | C18H25NO5
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Rh on alumina | 500 mg | [Rh] | Rh
product | methyl cis-4-[(1-tert-butoxycarbonyl-(2S)-pyrrolidinyl)methoxy]cyclohexanecarboxylate | 900 mg, 89% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO[C@H]1CC[C@H](CC1)C(=O)OC | C18H31NO5
